US05376670
5-[3,5-Bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-1H-1,2,4-triazole-3-amine
A 0° C. slurry of 7.00 g (63.32 mmol) of aminoguanidine hydrochloride in 30 ml of methanol is treated with 3.42 g (63.31 mmol) of sodium methoxide. The mixture is treated dropwise with 5.60 g (15.89 mmol) of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzoic acid, methyl ester in 20 ml of methanol over 30 minutes under a nitrogen atmosphere. The reaction is warmed at reflux for 40 hours and poured onto 400 ml of ice water. The aqueous mixture is neutralized to pH 7 using 3N HCl. The precipitate is collected and recrystallized from toluene to give 2.79 g (5.98 g theor., 47%) of the product as a white solid, mp 233°-235° C.

reactant | aminoguanidine hydrochloride | 63.32 mmol, 7.00 g | C(=N)(N)NN.Cl
reactant | sodium methoxide | 63.31 mmol, 3.42 g | C[O-].[Na+]
reactant | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzoic acid, methyl ester | 15.89 mmol, 5.60 g | CC(C)(C)C=1C=C(C(=O)OC)C=C(C1OCOCCOC)C(C)(C)C | C20H32O5
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 5-[3,5-Bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-1H-1,2,4-triazole-3-amine | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NC(=NN1)N | C20H32N4O3
